US05571833
A solution of 2-chloro-3-methyl-4-nitrophenol (30.0g, 0.160 mol) in sieve-dried DMF (650 ml) was treated with sodium hydride (50%, 8.44g, 0.176 mol) and then benzyl bromide (30.1 g, 0.176 mol), while stirring at 0° C. The mixture was stirred at room temperature for 16 hours, then poured into 3 litres of water to precipitate an orange-coloured solid, which was recrystallised from ethanol to give 2-chloro-3-benzyloxy-6-nitrotoluene (31.3 g) m.p. 73°-74.5° C.

reactant | 2-chloro-3-methyl-4-nitrophenol | 0.160 mol, 30.0g | ClC1=C(C=CC(=C1C)[N+](=O)[O-])O | C7H6ClNO3
reactant | sodium hydride | 0.176 mol, 8.44g | [H-].[Na+]
reactant | benzyl bromide | 0.176 mol, 30.1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 3 litres | O | H2O
solvent | DMF | 650 ml | CN(C)C=O | C3H7NO
product | 2-chloro-3-benzyloxy-6-nitrotoluene | 31.3 g | ClC1=C(C(=CC=C1OCC1=CC=CC=C1)[N+](=O)[O-])C | C14H12ClNO3
